US09085555B2
A. (1R,3S,5R)-2-Aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-benzyl ester 2-tert-butyl ester
To a solution of (1R,3S,5R)-2-azabicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester (2.5 g, 11.0 mmol) and Cs2CO3 (3.94 g, 12.1 mmol) in DMF (50 mL) at 0° C. benzylbromide (2.26 g, 13.2 mmol) was added dropwise. The reaction mixture was stirred overnight at RT. DMF was evaporated. The residue was dissolved in EtOAc and washed with a saturated aqueous solution of NaHCO3, the layers were separated and the aqueous phase was extracted with EtOAc (×2). The combined organic extracts were dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 100:0 to 0:100) to give the desired material as a colorless oil. MS (LCMS): 318.2 [M+H]+; tR (HPLC conditions f): 2.23 min.

reactant | (1R,3S,5R)-2-azabicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester | 11.0 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
reactant | Cs2CO3 | 12.1 mmol, 3.94 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzylbromide | 13.2 mmol, 2.26 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (1R,3S,5R)-2-Aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-benzyl ester 2-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)OCC1=CC=CC=C1 | C18H23NO4
